US08048909B2
1-{5-(4-Fluorophenyl)-1-[(4-fluorophenyl)sulfonyl]-1H-pyrrol-3-yl}-N-methylmethanamine
Using 5-(4-fluorophenyl)-1-[(4-fluorophenyl)sulfonyl]-1H-pyrrole-3-carbaldehyde (0.52 g), methylammonium chloride (1.20 g) and sodium cyanoborohydride (0.28 g), a procedure as in Example 6 was performed to give the title compound as a colorless oil (yield 0.39 g, 72%).

reactant | 5-(4-fluorophenyl)-1-[(4-fluorophenyl)sulfonyl]-1H-pyrrole-3-carbaldehyde | 0.52 g | FC1=CC=C(C=C1)C1=CC(=CN1S(=O)(=O)C1=CC=C(C=C1)F)C=O | C17H11F2NO3S
reactant | methylammonium chloride | 1.20 g | [Cl-].C[NH3+]
reactant | sodium cyanoborohydride | 0.28 g | C(#N)[BH3-].[Na+]
product | 1-{5-(4-Fluorophenyl)-1-[(4-fluorophenyl)sulfonyl]-1H-pyrrol-3-yl}-N-methylmethanamine | yield 0.39 g, 72% | FC1=CC=C(C=C1)C1=CC(=CN1S(=O)(=O)C1=CC=C(C=C1)F)CNC | C18H16F2N2O2S
